US04994258
Step A: Formation of the Free Base of 3(S)-(-)-Amino-1,3-dihydro-1-methyl-5-phenyl-2 H-1,4-benzodiazepin-2-one
To 3(S)-(-)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1, 4-benzodiazepin-2-one camphor sulfonate salt was added 5 ml of 10% NaHCO3 (w/v) and 10 ml of ethyl acetate. The phases were thoroughly mixed and separated. The aqueous phase was re extracted with two 10 ml portions of ethyl acetate. The organic layers containing the free amine were combined and washed with 3 ml of H2O and 3 ml of brine. The organic phase was dried over anhydrous Na2SO4 and concentrated to dryness in vacuo. The amine was used immediately after drying.

reactant | 3(S)-(-)-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1, 4-benzodiazepin-2-one camphor sulfonate salt | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O.N[C@@H]2C(N(C1=C(C(=N2)C2=CC=CC=C2)C=CC=C1)C)=O
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3(S)-(-)-Amino-1,3-dihydro-1-methyl-5-phenyl-2 H-1,4-benzodiazepin-2-one | N[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
